US03947585
The mixture of 0.72 g of 8-chloro-1-(2-chlorophenyl)-4-dimethylaminomethylidene-3,4-dihydro-2-benzazepin-5-one, 0.64 g of benzylhydrazine and 35 ml of ethanol is refluxed for 45 minutes and evaporated under reduced pressure. The residue is taken up in 20 ml methylene chloride, the solution washed with aqueous sodium bicarbonate and stirred with 6 ml of N hydrochloric acid for 20 minutes. The aqueous solution is made basic with sodium carbonate, the mixture stirred, the organic layer separated, dried and evaporated. The residue is taken up in the minimum amount of ethanol, the solution acidified with ethereal hydrogen chloride and the precipitate formed filtered off, to yield the 1-benzyl-8-chloro-6-(2-chlorophenyl)-1H,4H-pyrazolo[4,3-d](2)benzazepine hydrochloride melting at 218°-221°.

reactant | 8-chloro-1-(2-chlorophenyl)-4-dimethylaminomethylidene-3,4-dihydro-2-benzazepin-5-one | 0.72 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)Cl)=CN(C)C)=O)C=C1 | C19H16Cl2N2O
reactant | benzylhydrazine | 0.64 g | C(C1=CC=CC=C1)NN | C7H10N2
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 1-benzyl-8-chloro-6-(2-chlorophenyl)-1H,4H-pyrazolo[4,3-d](2)benzazepine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC=2CN=C(C3=C(C21)C=CC(=C3)Cl)C3=C(C=CC=C3)Cl | InChI=1S/C24H17Cl2N3.ClH/c25-18-10-11-19-21(12-18)23(20-8-4-5-9-22(20)26)27-13-17-14-28-29(24(17)19)15-16-6-2-1-3-7-16;/h1-12,14H,13,15H2;1H
